US06335469B1
(+)-camphor content:
To a suspension of 45.5 g (1.05 mole) sodium amide (content: 90% by weight/weight) and 500 ml of anhydrous dioxane a mixture of 220 g of the colourless oil obtained by the hydrolysis containing (1R,2S,4R)-(−)-2-[phenyl]-1,7,7-tri-[methyl]-bicyclo[2.2.1]heptane-2-ol, and 100 ml of anhydrous dioxane is added at the boiling point within half an hour. The mixture is heated to boiling for 2 hours, whereupon 113.0 g (1.05 mole) of (2-{chloro}-ethyl)-dimethylamine are added and the reaction mixture is heated to boiling for a further period of 4 hours.

reactant | sodium amide | 1.05 mole, 45.5 g | [NH2-].[Na+]
reactant | (1R,2S,4R)-(−)-2-[phenyl]-1,7,7-tri-[methyl]-bicyclo[2.2.1]heptane-2-ol | C1(=CC=CC=C1)[C@@]1([C@@]2(CC[C@H](C1)C2(C)C)C)O | C16H22O
reactant | (2-{chloro}-ethyl)-dimethylamine | 1.05 mole, 113.0 g | ClCCN(C)C | C4H10ClN
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 500 ml | O1CCOCC1 | C4H8O2
product | (+)-camphor | C12(C(=O)CC(CC1)C2(C)C)C | C10H16O
